US07910613B2
79: Hexanoic acid [5-(3-methyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-amide
Prepared from 5-(3-methyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine and hexanoyl chloride.

reactant | 5-(3-methyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine | CC1=NOC(=N1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H10N4OS
reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | Hexanoic acid [5-(3-methyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-amide | CC1=NOC(=N1)C1=C(N=C(S1)NC(CCCCC)=O)C1=CC=CC=C1 | C18H20N4O2S
